US09233946B2
5-Isopropyl-3-methylbenzofuran-2-sulfonyl chloride
The potassium salt of 5-isopropyl-3-methylbenzofuran-2-sulfonic acid (100 mg, 0.34 mmol) was mixed with POCl3 (5 mL) and the reaction mixture was heated at 60° C. over night. The POCl3 was evaporated and the crude product was dissolved in CH2Cl2 and passed through a small amount of silica to give the title compound (30 mg, 33%).

reactant | potassium | [K] | K
reactant | 5-isopropyl-3-methylbenzofuran-2-sulfonic acid | 0.34 mmol, 100 mg | C(C)(C)C=1C=CC2=C(C(=C(O2)S(=O)(=O)O)C)C1 | C12H14O4S
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-Isopropyl-3-methylbenzofuran-2-sulfonyl chloride | 30 mg, 33% | C(C)(C)C=1C=CC2=C(C(=C(O2)S(=O)(=O)Cl)C)C1 | C12H13ClO3S
